US07781592B2
2-(4-ethoxyphenyl)-3-(4-methanesulfonylphenyl)-oxo-propionic acid ethyl ester
499 mg of 4-ethoxyphenylacetic acid ethyl ester, 480 mg of carbonyldiimidazole, and 0.5 g of 4-methanesulfonyl benzoic acid were dissolved in 10 ml of dimethy formamide, and 119 mg of sodium hydride were slowly added dropwise to the solution and the mixture was reacted at the room temperature for 12 hours. Afterwards, water was added to dilute the resultant, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate to give 0.9 g of the titled compound as a light yellow liquid (yield 92%).

reactant | 4-ethoxyphenylacetic acid ethyl ester | 499 mg | C(C)OC(CC1=CC=C(C=C1)OCC)=O | C12H16O3
reactant | carbonyldiimidazole | 480 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methanesulfonyl benzoic acid | 0.5 g | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | sodium hydride | 119 mg | [H-].[Na+]
solvent | dimethy formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-ethoxyphenyl)-3-(4-methanesulfonylphenyl)-oxo-propionic acid ethyl ester | 0.9 g, yield 92% | C(C)OC(C(C(C1=CC=C(C=C1)S(=O)(=O)C)=O)C1=CC=C(C=C1)OCC)=O | C20H22O6S
